US08071591B2
A mixture of (3S)-8-amino-9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carbonitrile (580 mg, 2.09 mmol), trans-3-(1H-pyrazol-1-yl)cyclopentylamine (380 mg, 2.51 mmol) and di-isopropylethylamine (0.80 mL, 4.59 mmol) in anhydrous DMSO (12 mL) was stirred at 100° C. for 7 h. After cooling, the reaction mixture was poured into ice-water and then extracted with CH2Cl2-MeOH. The organic layer was washed with water and brine, and dried over anhyd Na2SO4 followed by the removal of solvent. The crude product was purified by column chromatography (EtOAc) to yield (3S)-8-amino-9-fluoro-2,3-dihydro-3-methyl-7-oxo-10-[trans-3-(1H-pyrazol-1-yl)cyclopentylamino]-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carbonitrile (125 mg, 15%) as a yellow powder.

reactant | (3S)-8-amino-9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carbonitrile | 2.09 mmol, 580 mg | NC1=C(C(=C2C=3N([C@H](CO2)C)C=C(C(C13)=O)C#N)F)F | C13H9F2N3O2
reactant | trans-3-(1H-pyrazol-1-yl)cyclopentylamine | 2.51 mmol, 380 mg | N1(N=CC=C1)[C@@H]1C[C@H](CC1)N | C8H13N3
reactant | di-isopropylethylamine | 4.59 mmol, 0.80 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
product | (3S)-8-amino-9-fluoro-2,3-dihydro-3-methyl-7-oxo-10-[trans-3-(1H-pyrazol-1-yl)cyclopentylamino]-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carbonitrile | 125 mg, 15% | NC1=C(C(=C2C=3N([C@H](CO2)C)C=C(C(C13)=O)C#N)N[C@@H]1C[C@H](CC1)N1N=CC=C1)F | C21H21FN6O2
